US05273999
Preparation of 4-(6-Bromohexyl)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester
A mixture of 0.673 g (1.65 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-(6-hydroxyhexyl)benzenepentanoic acid ethyl ester from the preceding example, 1.1 g (3.3 mmol) of carbon tetrabromide, and 0.9 g (3.3 mmol) of triphenylphosphine in 25 mL of ether was stirred at room temperature for 23 hr. The mixture was diluted with 250 mL of ether, and the solution worked-up in the usual manner. The crude product was purified by flash chromatography on 80 g of silica gel, eluting with hexane-ethyl acetate (10:1). There was obtained 0.588 g (75.7%) of the title compound as a colorless oil.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-(6-hydroxyhexyl)benzenepentanoic acid ethyl ester | 1.65 mmol, 0.673 g | C(C)OC(CCCCC1=CC(=C(C=C1)CCCCCCO)CCC(=O)OCC)=O | C24H38O5
reactant | carbon tetrabromide | 3.3 mmol, 1.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.3 mmol, 0.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ether | 250 mL | CCOCC | C4H10O
product | 4-(6-Bromohexyl)-3-(3-ethoxy-3-oxopropyl)benzenepentanoic Acid Ethyl Ester | 0.588 g, 75.7% | C(C)OC(CCCCC1=CC(=C(C=C1)CCCCCCBr)CCC(=O)OCC)=O | C24H37BrO4
